US06426345B1
To a mixture of 3,5-dichloroaniline (8.1 g) and triethylamine (7.0 ml) in chloroform (100 ml) was added dropwise a solution of 3-nitrobenzoyl chloride (9.3 g) in chloroform (50 ml). The mixture was stirred at room temperature for 1 hour, then poured into aqueous sodium bicarbonate. The resultant precipitate was collected and washed with chloroform and water to give 3-nitro-N-(3,5-dichlorophenyl)benzamide (12.50 g).

reactant | 3,5-dichloroaniline | 8.1 g | ClC=1C=C(N)C=C(C1)Cl | C6H5Cl2N
reactant | triethylamine | 7.0 ml | C(C)N(CC)CC | C6H15N
reactant | 3-nitrobenzoyl chloride | 9.3 g | [N+](=O)([O-])C=1C=C(C(=O)Cl)C=CC1 | C7H4ClNO3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-nitro-N-(3,5-dichlorophenyl)benzamide | 12.50 g | [N+](=O)([O-])C=1C=C(C(=O)NC2=CC(=CC(=C2)Cl)Cl)C=CC1 | C13H8Cl2N2O3
